US05506234
250 mg of 6-ethinyl-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester is mixed in 8 ml of dimethylformamide with 2 ml of triethylamine, 118 mg of anhydrous potassium carbonate, 22 mg of tetrakis (triphenylphosphine)-palladium(O), 7 mg of copper(I)iodide and 149 mg of 4-bromochlorobenzone and then the mixture is heated for 4 hours to 110° C. Then bromochlorobenzene, copper(I)iodide and palladium catalyst are added again and heated for 3 hours to 120° C. solution temperature. After concentration by evaporation it is taken up in ethyl acetate, washed in succession with saturated sodium carbonate and common salt solution each, dried, filtered and concentrated by evaporation. The residue is chromatographed twice in succession on silica gel, first with the mobile solvent toluene:ethanol:water=80:20:1 and then with the mobile solvent methylene chloride:ethanol=12:1, and the corresponding fractions are combined and used in the next chromatography. 120 mg of 6-(4-chlorophenylethinyl)-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester, melting point of 220°-221° C., is obtained.

reactant | 6-ethinyl-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester | 250 mg | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)C#C | C19H18N2O3
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 118 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromochlorobenzene | BrC1=C(C=CC=C1)Cl | C6H4BrCl
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
catalyst | palladium | [Pd] | Pd
catalyst | copper(I)iodide | 7 mg | [Cu]I
product | 6-(4-chlorophenylethinyl)-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester | 120 mg | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)C#CC1=CC=C(C=C1)Cl | C25H21ClN2O3
